** sch_path: /foss/designs/unicasss-tools/SG13G2_2.4GHz_LC_VCO_FPLL/xschem/charge-pump/tb_CP_LF.sch
**.subckt tb_CP_LF
V1 VDD GND 1.2
V2 DN GND PULSE(0 1.2 3.1u 1n 1n 49n 100n 29)
V3 UP GND PULSE(1.2 0 20n 1n 1n 49n 100n 29)
VBGR net1 GND 0.6
x1 UP VDD VCP net1 GND DN GND CHARGE_PUMP
x2 CTRL VCP GND GND LOOP_FILTER
**** begin user architecture code



.include tb_CP.save
.param temp=27
.option method=gear rshunt=1.0e12
.control
save all
op
write tb_CP_LF.raw
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ




.param temp = 27
.options method=gear rshunt=1.0e12

.control

* Save required signals
save v(UP) v(DN) v(VCP) v(CTRL)

* Long transient simulation
tran 1n 6u

* Measurements
meas tran ctrl_end find v(CTRL) at=6u
meas tran ctrl_max max v(CTRL)
meas tran ctrl_min min v(CTRL)
meas tran vcp_end find v(VCP) at=6u
meas tran vcp_max max v(VCP)
* supply current (negative = drawn from the source), power = 1.2 V x |idd|
meas tran idd avg i(V1) from=1u to=6u

write tb_CP_LF_tran.raw v(UP) v(DN) v(VCP) v(CTRL)

* Plot transient waveform
plot v(UP) v(DN) v(VCP) v(CTRL)
plot v(CTRL)

.endc


**** end user architecture code
**.ends

* expanding   symbol:  xschem/charge-pump/CHARGE_PUMP.sym # of pins=7
** sym_path: /foss/designs/unicasss-tools/SG13G2_2.4GHz_LC_VCO_FPLL/xschem/charge-pump/CHARGE_PUMP.sym
** sch_path: /foss/designs/unicasss-tools/SG13G2_2.4GHz_LC_VCO_FPLL/xschem/charge-pump/CHARGE_PUMP.sch
.subckt CHARGE_PUMP UP VDD VCP VBGR GND DN SUB!
*.opin VCP
*.ipin UP
*.ipin DN
*.iopin GND
*.iopin VBGR
*.iopin VDD
*.iopin SUB!
XM2 Vbn Vbn net5 SUB! sg13_lv_nmos w=40.7u l=2u ng=5 m=1 mm_ok=1
XM8 net2 GND VDD NW sg13_lv_pmos w=29.6u l=2u ng=5 m=1 mm_ok=1
XM11 Vbp Vbp net2 NW sg13_lv_pmos w=163.6u l=2u ng=20 m=1 mm_ok=1
XM3 Vbn Vbp net1 NW sg13_lv_pmos w=163.6u l=2u ng=20 m=1 mm_ok=1
XM4 net1 GND VDD NW sg13_lv_pmos w=29.6u l=2u ng=5 m=1 mm_ok=1
XM7 net3 UP VDD NW sg13_lv_pmos w=29.6u l=2u ng=5 m=1 mm_ok=1
XM9 VCP Vbp net3 NW sg13_lv_pmos w=163.6u l=2u ng=20 m=1 mm_ok=1
XM10 net5 VDD GND SUB! sg13_lv_nmos w=6u l=2u ng=1 m=1 mm_ok=1
XM1 net4 DN GND SUB! sg13_lv_nmos w=6u l=2u ng=1 m=1 mm_ok=1
XM5 VCP Vbn net4 SUB! sg13_lv_nmos w=40.7u l=2u ng=5 m=1 mm_ok=1
XM6 Vbp VBGR GND SUB! sg13_lv_nmos w=3.9u l=2u ng=1 m=1 mm_ok=1
XR1 VDD NW ntap1 R=1.319 w=51e-6 l=36e-6 rw=0.3e-6
XR2 VDD NW ntap1 R=2.51 w=30.5e-6 l=15.5e-6 rw=0.3e-6
XR3 GND SUB! ptap1 R=9.234 w=5.68e-6 l=7.26e-6 rw=0.3e-6
XR4 GND SUB! ptap1 R=2.717 w=30e-6 l=12.54e-6 rw=0.3e-6
XR5 GND SUB! ptap1 R=4.486 w=20e-6 l=6e-6 rw=0.3e-6
.ends


* expanding   symbol:  xschem/loop-filter/LOOP_FILTER.sym # of pins=4
** sym_path: /foss/designs/unicasss-tools/SG13G2_2.4GHz_LC_VCO_FPLL/xschem/loop-filter/LOOP_FILTER.sym
** sch_path: /foss/designs/unicasss-tools/SG13G2_2.4GHz_LC_VCO_FPLL/xschem/loop-filter/LOOP_FILTER.sch
.subckt LOOP_FILTER OUT IN GND SUB!
*.opin OUT
*.iopin GND
*.ipin IN
*.iopin SUB!
XC2 OUT GND cap_cmim w=18.63e-6 l=18.63e-6 m=4 mm_ok=1
XC1 net1 GND cap_cmim w=48.34e-6 l=48.34e-6 m=16 mm_ok=1
XR2 OUT IN SUB! rppd w=2e-6 l=407.2e-6 m=1 b=0 mm_ok=1
XR1 net1 IN SUB! rppd w=2e-6 l=407.2e-6 m=1 b=0 mm_ok=1
XR3 GND SUB! ptap1 R=1.462 w=46.34e-6 l=32.18e-6 rw=0.3e-6
XR4 GND SUB! ptap1 R=1.462 w=46.34e-6 l=32.18e-6 rw=0.3e-6
.ends

.GLOBAL VDD
.GLOBAL GND
.end
